US09145409B2
[(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl]1-[4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]-oxycarbonylamino]methyl]phenoxy]methyl]benzoyl]azetidine-3-carboxylate (E21)
To a solution of methyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoyl)azetidine-3-carboxylate (I23, 350 mg, 0.60 mmol) in THF (3 mL) and MeOH (3 mL) was added an aqueous solution of LiOH (1 N, 1.2 mL, 1.2 mmol) at room temperature. The resulting mixture was stirred for 16 h before being cooled to 0° C. and acidified with 2 N HCl to pH 2. The resulting mixture was then concentrated in vacuo and azeotroped to dryness with toluene. To a solution of the carboxylic acid in DMF (5 mL) was then added (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide (248 mg, 0.72 mmol) followed by 4-(dimethylamino)-pyridine (37 mg, 0.30 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (230 mg, 1.20 mmol). The resulting mixture was stirred at room temperature for 16 h and partitioned between EtOAc (50 mL) and water (20 mL). The organic layer was dried over MgSO4, filtered and the solvent was removed in vacuo. The residue was dissolved in DMSO (3.0 mL) and purified by preparative HPLC to provide the title compound (14 mg, 3% over two steps) as white solid.

reactant | methyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoyl)azetidine-3-carboxylate | 0.60 mmol, 350 mg | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)N3CC(C3)C(=O)OC)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C34H37N3O6
reactant | LiOH | 1.2 mmol, 1 N, 1.2 mL | [Li+].[OH-]
reactant | HCl | 2 N | Cl | ClH
reactant | (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.72 mmol, 248 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C15H15Cl2NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.20 mmol, 230 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
catalyst | 4-(dimethylamino)-pyridine | 0.30 mmol, 37 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl]1-[4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]-oxycarbonylamino]methyl]phenoxy]methyl]benzoyl]azetidine-3-carboxylate | 14 mg, 3% | ClC=1C=[N+](C=C(C1C[C@@H](C1=CC(=C(C=C1)OC)OC)OC(=O)C1CN(C1)C(C1=CC=C(C=C1)COC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)=O)Cl)[O-] | C48H48Cl2N4O9
